US05998433
To a solution of 6.597 g (48.09 mmol) of N-allyl-3-furylmethylamine and 18.0 g (144 mmol) of 2-bromoethanol in 100 ml of N,N-dimethylformamide, 33.2 g of potassium carbonate was added, followed by overnight stirring at 90° C. The reaction mixture was poured into water and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=3/1 to 1/1) to yield 2-[allyl-(3-furylmethyl)amino]ethanol.

reactant | N-allyl-3-furylmethylamine | 48.09 mmol, 6.597 g | C(C=C)NCC1=COC=C1 | C8H11NO
reactant | 2-bromoethanol | 144 mmol, 18.0 g | BrCCO | C2H5BrO
reactant | potassium carbonate | 33.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-[allyl-(3-furylmethyl)amino]ethanol | C(C=C)N(CCO)CC1=COC=C1 | C10H15NO2
